US08497270B2
Methyl 8-(benzyloxy)-5-bromo-1,6-naphthyridine-7-carboxylate
Benzyl bromide (2.53 ml, 21.2 mmol) was added to a mixture of methyl 5-bromo-8-hydroxy-1,6-naphthyridine-7-carboxylate (3.0 g; 10.6 mmol) and cesium carbonate (6.9 g; 21.2 mmol) in DMF (30 ml), under stirring at room temperature. The reaction mixture was stirred at room temperature for 12 hours. Water and ethyl acetate were added. The organic phase was separated, washed with water and with a saturated NaCl solution. The organic phase was dried, filtered and concentrated to dryness. The crude material was purified by flash chromatography column over silica gel (eluting with a gradient hexane-ethyl acetate 10:1 to 2:1).

reactant | Benzyl bromide | 21.2 mmol, 2.53 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methyl 5-bromo-8-hydroxy-1,6-naphthyridine-7-carboxylate | 10.6 mmol, 3.0 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)OC)O | C10H7BrN2O3
reactant | cesium carbonate | 21.2 mmol, 6.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 8-(benzyloxy)-5-bromo-1,6-naphthyridine-7-carboxylate | C(C1=CC=CC=C1)OC=1C(=NC(=C2C=CC=NC12)Br)C(=O)OC | C17H13BrN2O3
